US05814653
6-(2-thienylacetyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 8.1 μL (0.051 mMol) 2-thienylacetyl chloride, 13.7 mg (84%) of the title compound were recovered as a dark brown solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 2-thienylacetyl chloride | 0.051 mMol, 8.1 μL | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | 6-(2-thienylacetyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 13.7 mg, 84% | S1C(=CC=C1)CC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C20H23N3OS
